US06573289B1
Production of 1-{6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]naphthalen-2-yl}-1-ethanone
1-(6-Bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (7.0 g) was dissolved in THF (150 ml). The solution was cooled to −70° C. To the mixture was slowly added a solution of n-butyl lithium in hexane (1.6 M; 16.4 ml), and the mixture was stirred at −70° C. for 20 min. To the mixture was added dropwise a solution of N-methyl-N-methoxyacetamide (2.45 g) in THF (10 ml), and the mixture was stirred at −70° C. for 20 min. To the mixture was added water, and the mixture was extracted with ethyl acetate, washed with saturated sodium chloride solution and dried. The solvent was distilled off and the residue was purified column chromatography (eluent, hexane:THF=6:1→3:1) to give the titled compound (3.53 g) as a colorless powder.

reactant | 1-(6-Bromonaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 7.0 g | BrC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H31BrN2O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | N-methyl-N-methoxyacetamide | 2.45 g | CN(C(C)=O)OC | C4H9NO2
reactant | water | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M, 16.4 ml | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-{6-[1-Hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]naphthalen-2-yl}-1-ethanone | 3.53 g | OC(C(C)C)(C=1N=CNC1)C=1C=C2C=CC(=CC2=CC1)C(C)=O | C19H20N2O2
